US06083989
Synthesis of N-tert-Butyl-α-(4-aminosulfonylphenyl)nitrone
Using 4-aminosulfonylbenzaldehyde and N-tert-butylhydroxylamine and following the procedures described herein, the title compound was prepared as a white powder, m.p. 219.1-219.4° C.

reactant | 4-aminosulfonylbenzaldehyde | NS(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | N-tert-Butyl-α-(4-aminosulfonylphenyl)nitrone | C(C)(C)(C)[N+](=CC1=CC=C(C=C1)S(=O)(=O)N)[O-] | C11H16N2O3S
